US04111682
Preparation of N-(tert.-butylthiomethyl)-N-methyl amine hydrochloride
Two hundred ml. of acetonitrile and 6.45 g. (0.05 mole) of 1,3,5-trimethylhexahydro-s-triazine are charged to a 500 ml. 3-neck round bottom flask equipped with a stirrer, thermometer and dropping funnel. The mixture is stirred and cooled to -30° C. with a dry ice/acetone bath. Six grams of hydrogen chloride gas are added, followed by slow addition of 13.5 g. (0.15 mole) of tert.-butyl mercaptan dissolved in 50 ml. of acetonitrile. The mixture is then allowed to warm to room temperature and stand overnight.

reactant | 1,3,5-trimethylhexahydro-s-triazine | 0.05 mole | CN1CN(CN(C1)C)C | C6H15N3
reactant | hydrogen chloride | Six grams | Cl | ClH
reactant | tert.-butyl mercaptan | 0.15 mole | C(C)(C)(C)S | C4H10S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(tert.-butylthiomethyl)-N-methyl amine hydrochloride | Cl.C(C)(C)(C)SCNC | InChI=1S/C6H15NS.ClH/c1-6(2,3)8-5-7-4;/h7H,5H2,1-4H3;1H
